US05516774
10,11-Dihydro-10-(4-aminobenzoyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine
To a solution of 21.58 g of 10,11-dihydro10-(4-nitrobenzoyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine in 325 ml of ethyl alcohol is added 2.15 g of 10% Pd/C and 5.16 g of hydrazine followed by stirring and heating under reflux for 15 hours. The room temperature reaction mixture is filtered through diatomaceous earth. The filtrate is concentrated in vacuo to a solid which is dissolved in methylene chloride and passed through a pad of hydrous magnesium silicate. The filtrate is concentrated in vacuo to give 19.2 g of the desired product as a tan solid. The solid is purified by flash chromatography using 7:1 ethyl acetate-hexane to give 17.97 g of the desired product, m.p. 166°-168° C.

reactant | 10,11-dihydro10-(4-nitrobenzoyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine | 21.58 g | [N+](=O)([O-])C1=CC=C(C(=O)N2CC=3N(CC4=C2C=CC=C4)C=CC3)C=C1 | C19H15N3O3
reactant | hydrazine | 5.16 g | NN | H4N2
solvent | ethyl alcohol | 325 ml | C(C)O | C2H6O
catalyst | Pd/C | 2.15 g | [Pd] | Pd
product | 10,11-Dihydro-10-(4-aminobenzoyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine | 19.2 g | NC1=CC=C(C(=O)N2CC=3N(CC4=C2C=CC=C4)C=CC3)C=C1 | C19H17N3O
